US05137538
Preparation of N,N'-bis(ethyl)-N,N'-bis(3'-methyl-4'-nitrosophenyl)ethylenediamine
A solution of 0.106 moles (7.3 g) of sodium nitrite in 17 ml of water is added dropwise at 0° C. to a solution of 0.05 moles (18.5 g) of N,N'-bis(ethyl)-N,N'-bis(3'-methylphenyl)ethylenediamine, in the dihydrochloride form prepared in the preceding stage, 20 ml of concentrated hydrochloric acid and 105 g of ice. After the end of addition the stirring is continued for 30 minutes. The hydrochloride of the expected product crystallizes.

reactant | sodium nitrite | 0.106 moles, 7.3 g | N(=O)[O-].[Na+]
reactant | N,N'-bis(ethyl)-N,N'-bis(3'-methylphenyl)ethylenediamine | 0.05 moles, 18.5 g | C(C)N(CCN(C1=CC(=CC=C1)C)CC)C1=CC(=CC=C1)C | C20H28N2
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | hydrochloric acid | 20 ml | Cl | ClH
reactant | water | 17 ml | O | H2O
product | N,N'-bis(ethyl)-N,N'-bis(3'-methyl-4'-nitrosophenyl)ethylenediamine | C(C)N(CCN(C1=CC(=C(C=C1)N=O)C)CC)C1=CC(=C(C=C1)N=O)C | C20H26N4O2
